2161-06-14 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2161-6-13**] 04:10 PM
   - admitted in the afternoon
   - vasc [**Doctor First Name 213**] placed wound vac
   - approximately 2 L bolused given EF <20%
   - hypoglycemic to 61 around 3 AM with diaphoresis and confusion --> 1
   amp D50 given with resolution of symptoms
   - continued to have larger LLQ hematoma --> CT scan overnight
   - Hct dropped to 22 --> 1 pRBC transfusion
   Allergies:
   Procardia (Oral) (Nifedipine)
   stopped breathi
   Benadryl (Oral) (Diphenhydramine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2161-6-13**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-6-14**] 04:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-14**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 65 (60 - 88) bpm
   BP: 81/46(54) {60/32(39) - 123/79(92)} mmHg
   RR: 14 (12 - 30) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
    CVP: 17 (4 - 22)mmHg
   Total In:
                                                                    870 mL
                                                                  1,789 mL
   PO:
   TF:
   IVF:
                                                                    870 mL
                                                                  1,414 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,000 mL
                                                                    170 mL
   Urine:
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -130 mL
                                                                  1,619 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/41/96.[**Numeric Identifier 181**]/24/-2
   Physical Examination
   VITAL SIGNS: T 96.9  BP 109/66  HR 76  RR 12  98% on 2 L NC --> 92% on
   RA
   GEN: pleasant obese male lying in bed in NAD
   HEENT: anicteric, EOMI, PERRL, OP - MMM, no exudate, no erythema; no
   cervical LAD
   CHEST:
   CV: RRR, nl S1, S2, no m/r/g
   ABD: obese, soft,
   EXT: no c/c/e, RLE with scattered red macules/[**Last Name (un) 8173**], 1+ DP
   bilaterally, able to move feet and wiggle toes.
   NEURO: A&O x 3, CN II-XII grossly intact, [**5-5**] grip strength bilaterally
   DERM: two fasciotomy openings on RLE on either side of calf with
   dressing completely saturated with blood.  Exterior fascioutomy wound
   with bleeding from bottom of wound.
   Labs / Radiology
   503 K/uL
   7.7 g/dL
   49 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   36 mg/dL
   100 mEq/L
   132 mEq/L
   22.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2161-6-13**]  04:27 PM
                             [**2161-6-13**]  11:20 PM
                             [**2161-6-14**]  03:06 AM
                             [**2161-6-14**]  04:20 AM
   WBC
   10.0
   8.9
   Hct
   24.9
   23.7
   22.8
   Plt
   545
   503
   Cr
   1.1
   1.4
   TropT
   0.01
   TCO2
   24
   Glucose
   120
   49
   Other labs: PT / PTT / INR:18.4/38.3/1.7, CK / CKMB /
   Troponin-T:126/3/0.01, Lactic Acid:1.1 mmol/L, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 72 y.o. M with CAD s/p CABG in [**2144**], CHF (EF 20%
   in [**2157**]), and complete heart back, pacer dependent, who presents to ED
   for RLE wound evaluation after R leg 3-compartment fasciotomy for
   compartment syndrome, admitted to ICU for hypotension.
   .
   # Hypotension: Differential diagnosis consists of hypovolumia due to
   dehydration (BUN/Cr ratio elevated, hyponatremia, and PE exam supports
   dehydrdation), acute blood loss (history by MD [**First Name (Titles) **] [**Last Name (Titles) 328**] Rehab notes a
   lot of drainage from RLE wound), sepsis given that he is
   post-operative, has had a foley for several days from recent
   hospitalization, and fever by rectal temperature.  Reassuringly, his
   leukocytosis is trending down from prior hospitalization and lactate
   normal. Recent BCx and UCx negative from [**Hospital 328**] Rehab.
   - f/u blood cultures
   - add on urine culture
   - appreciate vascular surgery recs
   - gentle IVF boluses given poor systolic function to keep MAP>60
   - q 6 hour Hct
   - active T&S and crossmatch 3 units for potential transfusion
   - continue vancomycin and zosyn for broad coverage given fever by
   rectal temperature
   - talk to urology regarding CBI and whether safe to change out foley
   - trend leukocytosis
   - trend fever curve
   - hold antihypertensives and lasix while hypotensive
   .
   # RLE wound s/p fasciotomy: Previous admission with compartment
   syndrome, followed by vascular surgery.
   - appreciate vascular surgery involvment - will replace wound vac
   today, monitor frequent Hcts
   - per vascular surgery, continue lovenox 100 mg SQ [**Hospital1 7**]
   - monitor output from wound
   .
   # Hematuria: complication that occurred during post-operative care
   - touch base with urology
   - d/c CBI as urine now clear
   .
   # Hyponatremia: may be secondary to volume depletion but after IVF
   resuscitation, MM appear dry
   - trend Na
   - gentle IVF boluses
   - further workup with labs in pt not responding
   .
   # CHF, systolic dysfunction 20% in [**2157**]:
   - hold lasix given marginal BPs
   - may need to reinstitute in AM for volume overload
   .
   # BPH: continue oxybutynin and tamsulosin
   .
   # CAD:
   - hold ASA 325 mg given ? bleeding
   - hold beta blocker
   - continue gemfibrozil and atorvastatin
   .
   # Hypertension:
   - hold carvedilol, valsartan given low BPs
   .
   # Type 2 Diabetes:
   - hold oral hypoglycemic agents
   - place on HISS
   .
   # Obstructive Sleep Apnea:
   - CPAP 13 50 cc EERS, 2 L Oxygen
   .
   FEN: IVF boluses / replete lytes prn / cardiac, low sodium, DM diet
   PPX: lovenox, home ranitidine, bowel regimen prn
   ACCESS: 3 PIV (18, 20, 22 g), CVL
   CODE STATUS: FULL (confirmed with patient)
   EMERGENCY CONTACT: Brother - called and left message
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Comments: cardiac / diabetic / low salt
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-6-13**] 04:10 PM
   18 Gauge - [**2161-6-13**] 04:10 PM
   20 Gauge - [**2161-6-13**] 04:11 PM
   22 Gauge - [**2161-6-13**] 04:12 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-06-14 09:41:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI: 72 year-old man with recent admission for compartment syndrome and
   fasciotomy.  Came in yesterday from [**Hospital 328**] rehab for drainage/bleeding
   from wound and hypotension.  Temp 100.4.
   In ED got 1L NS, CV catheter.  Evaluated by vascular
 wound OK.
   Also recent hematuria in setting of anticoagulation.
   24 Hour Events:
 MULTI LUMEN - START [**2161-6-13**] 04:10 PM
   Episode of hypoglycemia last night with confusion, diaphoresis.  FS
   61.  Responded to amp D50.
   Bladder Irrigation resumed.
   Sub Q hematoma noted.  Sent for CT scan.  This notes large bladder,
   stool throughout, foley in urethra.  No hematoma.
   Transfused 1 U pRBCs.
   Allergies:
   Procardia (Oral) (Nifedipine)
   stopped breathi
   Benadryl (Oral) (Diphenhydramine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-6-14**] 04:45 AM
   Vancomycin - [**2161-6-14**] 08:16 AM
   Infusions:
   Other ICU medications:
   Other medications: colace, lovenox 100mg q12, ditropan, H2 blocker,
   flomax, lopid, RISS, lipitor, ASA 325, oxycodone.
   Changes to medical and family history: LVEF 25%, OSA
 not compliant
   with CPAP.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-14**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 60 (60 - 88) bpm
   BP: 106/51(65) {60/32(39) - 123/81(92)} mmHg
   RR: 15 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   CVP: 10 (4 - 22)mmHg
   Total In:
                                                                    870 mL
                                                                  2,016 mL
   PO:
   TF:
   IVF:
                                                                    870 mL
                                                                  1,641 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,000 mL
                                                                    260 mL
   Urine:
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -130 mL
                                                                  1,756 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/41/97/24/-2
   Physical Examination
   GEN: NAD, pleasant, follows commands.
   CHEST: clear.  Heart RRR, S1S2
   Abdomen: distended, firm suprapubic area.  +BS
   Right Leg: VAc dressing in place, warm, 1+ pulses.  Somewhat decreased
   sensation.
   Labs / Radiology
   7.7 g/dL
   503 K/uL
   49 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   36 mg/dL
   100 mEq/L
   132 mEq/L
   22.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2161-6-13**]  04:27 PM
                             [**2161-6-13**]  11:20 PM
                             [**2161-6-14**]  03:06 AM
                             [**2161-6-14**]  04:20 AM
   WBC
   10.0
   8.9
   Hct
   24.9
   23.7
   22.8
   Plt
   545
   503
   Cr
   1.1
   1.4
   TropT
   0.01
   TCO2
   24
   Glucose
   120
   49
   Other labs: PT / PTT / INR:18.4/38.3/1.7, CK / CKMB /
   Troponin-T:126/3/0.01, Alk Phos / T Bili:/0.2, Lactic Acid:1.1 mmol/L,
   LDH:139 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK): Resolved. Though MAP intermittently low when
   sleeping.  Suspect this is [**2-2**]  hypovolumia, anemia.  Got 1 u pRBCs and
   getting a second unit.  Low suspicion for sepsis
 will stop abx and
   f/u cx data with low threshold to restart if worsening clinical
   status.  CVPs 10 continue to monitor CVP, urine out.
 Acute Renal Failure: Post-obstructive.  Re-adjust foley and follow.
Right leg wound: Vascular following.  Check Factor XA level.  Check
   HCT this PM.
Constipation/Bladder retention: Bowel regimen.
   ICU Care
   Nutrition: Taking PO
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2161-6-13**] 04:10 PM
   18 Gauge - [**2161-6-13**] 04:10 PM
   Prophylaxis:
   DVT: therapeutic lovenox
   Stress ulcer: H2 blocker
   VAP: N/A
   Comments:
   Communication:  Comments: With patient
   Code status: Full code
   Disposition : Monitor in ICU given intermittently low MAP, can likely
   transfer to floor in am.
   Total time spent: 35 mins

2161-06-15 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - nurse noted small area of fluctuance below wound on R leg, obtained
   ultrasound- prelim- fluid collection 5 x 3 x 3 cm.  called vascular
   surgery, they evaluated and said will have the attending evaluate in
   a.m. to help differentiate fluid collection from abscess
   -vasc [**Doctor First Name 213**] will re-eval vac functioning in a.m., seal not very tight
   -required 250cc IVF x 3 for hypotension (SBP in low 80s to 70s,
   mentating, UOP unreliable as having robust post obstructive diuresis)
   and 1 uPRBC
   -central venous O2 sat 55, Cardiac index roughly 2.2, ordered echo for
   a.m.
   -hct stable
   -factor Xa level high- decreased lovenox dose
   -foley advanced, patient with large amt post obstructive diuresis
   -hypoglycemic (BG 50s, asymptomatic)- 1 amp D50 given
   Allergies:
   Procardia (Oral) (Nifedipine)
   stopped breathi
   Benadryl (Oral) (Diphenhydramine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-6-14**] 04:45 AM
   Vancomycin - [**2161-6-14**] 08:16 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2161-6-14**] 06:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-15**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 73 (60 - 80) bpm
   BP: 114/61(74) {71/37(46) - 132/81(88)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
    CVP: 8 (0 - 16)mmHg
   Mixed Venous O2% Sat: 55 - 55
   Total In:
                                                                  4,610 mL
                                                                  1,044 mL
   PO:
                                                                    840 mL
   TF:
   IVF:
                                                                  3,060 mL
                                                                  1,044 mL
   Blood products:
                                                                    660 mL
   Total out:
                                                                  6,030 mL
                                                                  1,200 mL
   Urine:
                                                                  6,030 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,420 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   GEN: pleasant obese male lying in bed in NAD
   HEENT: anicteric, EOMI, PERRL, OP - MMM, no exudate, no erythema; no
   cervical LAD
   CHEST:
   CV: RRR, nl S1, S2, no m/r/g
   ABD: markedly distended bladder
   EXT: no c/c/e, RLE with scattered red macules/[**Last Name (un) 8173**], 1+ DP
   bilaterally, able to move feet and wiggle toes.
   NEURO: A&O x 3, CN II-XII grossly intact, [**5-5**] grip strength bilaterally
   DERM: two fasciotomy openings on RLE on either side of calf with
   dressing completely saturated with blood.  Exterior fascioutomy wound
   with bleeding from bottom of wound.
   Labs / Radiology
   454 K/uL
   8.7 g/dL
   63 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   16 mg/dL
   109 mEq/L
   139 mEq/L
   26.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2161-6-13**]  04:27 PM
                             [**2161-6-13**]  11:20 PM
                             [**2161-6-14**]  03:06 AM
                             [**2161-6-14**]  04:20 AM
                             [**2161-6-14**]  08:04 AM
                             [**2161-6-14**]  06:32 PM
                             [**2161-6-15**]  03:11 AM
   WBC
   10.0
   8.9
   9.1
   Hct
   24.9
   23.7
   22.8
   26.8
   27.7
   26.1
   Plt
   545
   503
   454
   Cr
   1.1
   1.4
   1.0
   0.8
   TropT
   0.01
   TCO2
   24
   Glucose
   120
   49
   50
   63
   Other labs: PT / PTT / INR:18.4/38.3/1.7, CK / CKMB /
   Troponin-T:126/3/0.01, ALT / AST:27/29, Alk Phos / T Bili:51/0.3,
   Lactic Acid:1.1 mmol/L, LDH:139 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 72 y.o. M with CAD s/p CABG in [**2144**], CHF (EF 20%
   in [**2157**]), and complete heart back, pacer dependent, who presents to ED
   for RLE wound evaluation after R leg 3-compartment fasciotomy for
   compartment syndrome, admitted to ICU for hypotension.
   # Hypotension: initially due to bleeding, now related to
   post-obstructive diuresis. Match I/O.
   -hct drop likely related to RLE, no bleeding currently and s/p 1uPRBC
   w/ appropriate hct bump
   -trend q12 hrs hct
   -vascular [**Doctor First Name 213**] following, continue lovenox and ASA per vascular surgery
   for popliteal aneurysms
   -active type and screen
   -hypotension resolved- only while sleeping, antihypertensives held
   (coreg/lasix), has triple lumen central line for access
   -d/c abx as no si/sx of infection
   # RLE wound s/p fasciotomy:
   -no current bleeding, f/u vasc [**Doctor First Name 213**] recs
   -f/u 10A level and adjust dose of lovenox if needed
   # bladder distension:  foley advanced with significant urine output and
   resolution of ARF.  Match I/O
   # Hematuria: not currently on CBI and clear urine. Plan for outpatient
   urologic evaluation today.
   -currently no hematuria, titrate up CBI if returns, has 3 way foley
   # Hyponatremia:  improved
   # CHF, systolic dysfunction 20% in [**2157**]:  getting echo currently
   - hold lasix given marginal BPs
   -add lasix 20mg po daily when fluid replete and BP stable
   # BPH: continue oxybutynin and tamsulosin
   # CAD:
   - hold ASA 325 mg given ? bleeding
   - hold beta blocker
   - continue gemfibrozil and atorvastatin
   # Type 2 Diabetes:
   - hold oral hypoglycemic agents
   - place on HISS
   # Obstructive Sleep Apnea:
   - CPAP 13 50 cc EERS, 2 L Oxygen
   FEN: IVF boluses / replete lytes prn / cardiac, low sodium, DM diet
   PPX: lovenox, home ranitidine, bowel regimen prn
   ACCESS: 3 PIV (18, 20, 22 g), CVL
   CODE STATUS:  FULL (confirmed with patient)
   EMERGENCY CONTACT: Brother - called and left message
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-6-13**] 04:10 PM
   18 Gauge - [**2161-6-13**] 04:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-06-15 07:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Replaced CBI foley yesterday
   > TTE today
   Allergies:
   Procardia (Oral) (Nifedipine)
   stopped breathi
   Benadryl (Oral) (Diphenhydramine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-6-14**] 04:45 AM
   Vancomycin - [**2161-6-14**] 08:16 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2161-6-14**] 06:54 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-15**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 73 (60 - 80) bpm
   BP: 114/61(74) {71/37(46) - 132/73(88)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   CVP: 8 (0 - 16)mmHg
   Mixed Venous O2% Sat: 55 - 55
                                Total In:
                                                                  4,610 mL
                                                                  1,059 mL
   PO:
                                                                    840 mL
                                TF:
   IVF:
                                                                  3,060 mL
                                                                  1,059 mL
   Blood products:
                                                                    660 mL
   Total out:
                                                                  6,030 mL
                                                                  1,200 mL
   Urine:
                                                                  6,030 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,420 mL
                                                                   -141 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: wrapped with surrounding edema and sital to wound
   vac is a 5x3 cm area of raised erythema with fluid pocket (non tender).
    Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   454 K/uL
   63 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   16 mg/dL
   109 mEq/L
   139 mEq/L
   26.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2161-6-13**]  04:27 PM
                             [**2161-6-13**]  11:20 PM
                             [**2161-6-14**]  03:06 AM
                             [**2161-6-14**]  04:20 AM
                             [**2161-6-14**]  08:04 AM
                             [**2161-6-14**]  06:32 PM
                             [**2161-6-15**]  03:11 AM
   WBC
   10.0
   8.9
   9.1
   Hct
   24.9
   23.7
   22.8
   26.8
   27.7
   26.1
   Plt
   545
   503
   454
   Cr
   1.1
   1.4
   1.0
   0.8
   TropT
   0.01
   TCO2
   24
   Glucose
   120
   49
   50
   63
   Other labs: PT / PTT / INR:18.4/38.3/1.7, CK / CKMB /
   Troponin-T:126/3/0.01, ALT / AST:27/29, Alk Phos / T Bili:51/0.3,
   Lactic Acid:1.1 mmol/L, LDH:139 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   72 y.o. M with CAD s/p CABG in [**2144**], CHF (EF 20% in [**2157**]), and complete
   heart back, pacer dependent, who presents to ED for RLE wound
   evaluation after R leg 3-compartment fasciotomy for compartment
   syndrome, admitted to ICU for hypotension and course complicated by
   bladder distension and renal failure.
   > Hypotension: likely initially in setting of bleeding now complicated
   by post obstructive renal failure diuresis.
   -hct drop likely related to RLE, no bleeding currently and s/p 1uPRBC
   w/ appropriate hct bump
   -trend q12 hrs hct
   -vascular [**Doctor First Name 213**] following, continue lovenox and ASA per vascular surgery
   (? Heparin gtt as opposed to enoxaparin if he is to have procedure)
   -active type and screen
    > RLE wound s/p fasciotomy:
   -no current bleeding, f/u vasc [**Doctor First Name 213**] recs
   -f/u 10A level and adjust dose of lovenox if needed (for lower ext
   aneurysm)
   - distal fluid collection on U/2: will d/w with [**Doctor First Name 213**] re:
   debridement/drainage.  Would favor empiric abx (will d/w vascular)
   -
   > bladder distension/hematuria:  balloon was distal to prostate, now
   repositioned with minmal hematuria.
   > renal failure: now with post obstructive diuresis, will aim for
   slightly negative fluid balance.  Will match I/O follow during the
   course of the day
   - monitor electrolytes
   > CHF, systolic dysfunction 20% in [**2157**]:
   - hold lasix for low  BPs
   - f/u TTE today
   > CAD:
   - hold ASA 325 mg given ? bleeding
   - hold beta blocker
   > Obstructive Sleep Apnea:
   - CPAP 13 50 cc EERS, 2 L Oxygen
   ICU Care
   Nutrition:
   Comments: advance diet
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2161-6-13**] 04:10 PM
   18 Gauge - [**2161-6-13**] 04:10 PM
   Prophylaxis:
   DVT: Boots, enoxaparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes